US06528514B1
Hydrogen chloride was bubbled through a solution of 3-chlorobenzonitrile (25.5 g, 0.185 mol) in ethanol (250 mL) to saturation under ice-cooling and the reaction mixture was stirred at room temperature for 17 hours. The solvent was distilled off under reduced pressure and the residual solid was suspended in diethyl ether (200 mL), then collected by filtration, washed with diethyl ether (200 mL) and dried in vacuo at 60° C. to give 38.3 g (94%) of ethyl 3-chlorobenzimidate hydrochloride as white crystals.

reactant | Hydrogen chloride | Cl | ClH
reactant | 3-chlorobenzonitrile | 0.185 mol, 25.5 g | ClC=1C=C(C#N)C=CC1 | C7H4ClN
reactant | ethanol | 250 mL | C(C)O | C2H6O
product | ethyl 3-chlorobenzimidate hydrochloride | 38.3 g, 94% | Cl.ClC=1C=C(C(OCC)=N)C=CC1 | InChI=1S/C9H10ClNO.ClH/c1-2-12-9(11)7-4-3-5-8(10)6-7;/h3-6,11H,2H2,1H3;1H
